US06080743
N-(7-nitro-2,3-dioxo-1,2,3,4-tetrahydroquinoxalin-5-yl methyl)-phthalic acid amide;
N-(7-nitro-2,3-dioxo-1,2,3,4-tetrahydroquinoxalin-5-ylmethyl)-N-methyl-succinic acid amide, FAB-MS: M+ =350; TLC: methylene chloride/methanol/acetic acid (80:18:2) Rf =0.46.

reactant | N-(7-nitro-2,3-dioxo-1,2,3,4-tetrahydroquinoxalin-5-ylmethyl)-N-methyl-succinic acid amide | [N+](=O)([O-])C1=CC(=C2NC(C(NC2=C1)=O)=O)CN(C(CCC(=O)O)=O)C | C14H14N4O7
solvent | methylene chloride methanol acetic acid | C(Cl)Cl.CO.C(C)(=O)O
product | N-(7-nitro-2,3-dioxo-1,2,3,4-tetrahydroquinoxalin-5-yl methyl)-phthalic acid amide | [N+](=O)([O-])C1=CC(=C2NC(C(NC2=C1)=O)=O)CNC(C=1C(C(=O)O)=CC=CC1)=O | C17H12N4O7
